US08623889B2
Step 2: N-(7-(5-fluoro-6-(hydroxymethyl)-4-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide
Diisobutylaluminum hydride (1.0M solution in tetrahydrofuran, 0.73 mL) was added dropwise to a solution of methyl 5-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-3-fluoro-4-methylpicolinate (60 mg, 1.8 mmol) in methylene chloride (1.5 mL) cooled at −15° C. After 1 hour at this temperature, the reaction was quenched by dropwise addition of saturated aqueous ammonium chloride solution (3 mL). The reaction mixture was diluted with ethyl acetate (50 mL) and washed with 1.0M citric acid solution in water (20 mL). The organic layer was separated, and the aqueous layer was neutralized via addition of solid sodium bicarbonate solution and then extracted with ethyl acetate (50 mL). The combined organic portions were dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by reverse phase HPLC (5-85% acetonitrile in water with 0.1% formic acid over 14 min) to afford the title compound as an off-white solid (15 mg, 23%). 1H NMR (400 MHz, DMSO) δ 10.94 (s, 1H), 9.21 (s, 1H), 8.52 (s, 1H), 8.35 (s, 1H), 8.11 (s, 1H), 7.98 (d, J=8.6 Hz, 1H), 7.75 (d, J=8.6 Hz, 1H), 5.31 (s, 1H), 4.65 (s, 2H), 2.26 (s, 3H), 2.12-2.04 (m, 1H), 0.91-0.80 (m, 4H). LCMS (Method G): RT=7.53 min, M+H+=352.1.

reactant | Diisobutylaluminum hydride | 1.0M, 0.73 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl 5-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-3-fluoro-4-methylpicolinate | 1.8 mmol, 60 mg | C1(CC1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C=1C(=C(C(=NC1)C(=O)OC)F)C | C21H18FN3O3
solvent | methylene chloride | 1.5 mL | C(Cl)Cl | CH2Cl2
product | N-(7-(5-fluoro-6-(hydroxymethyl)-4-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 15 mg, 23% | FC=1C(=C(C=NC1CO)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1)C | C20H18FN3O2
